US07608639B2
3-{4-[3-(4-Bromo-2-trifluoromethoxy-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 4-bromo-2-trifluoromethoxy-phenol as in Example 18 to afford 0.013 g (5%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C23H17O5F4Br 528, found 529 (M+1, 100%).

reactant | 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)F)Br)C)=O | C17H16BrFO3
reactant | 4-bromo-2-trifluoromethoxy-phenol | BrC1=CC(=C(C=C1)O)OC(F)(F)F | C7H4BrF3O2
product | 3-{4-[3-(4-Bromo-2-trifluoromethoxy-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid | BrC1=CC(=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=C(C2)F)C=C1)OC(F)(F)F | C23H17BrF4O5
